data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_201435_1,[C:1]([C:4]([C:3]([C:2]([O:5][H:9])=[O:6])=[O:7])=[O:8])([H:10])([H:11])[H:12]>>[C:1]([C:4]1[C:3](=[O:7])[O:6][C:2]([O:5][H:9])[O:8]1)([H:10])([H:11])[H:12],67.45625000000999
MR_600119_1,[C:1]([N:3]([H:10])[H:11])([N:4]([H:9])[H:12])([O:7]/[C:5](=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:14])[H:13])[H:8]>>[C:1]1([N:3]([H:10])[H:11])([N:4]([H:9])[H:12])[C@:5]([C:6]([C:2]([H:15])([H:16])[H:17])([H:8])[H:14])([H:13])[O:7]1,28.163455000018587
MR_135231_0,[C:1]1([N:5]([H:9])[H:10])([H:6])[C:2]([H:11])([H:12])[N:3]1[N:4]([H:7])[H:8]>>[C:1](=[C:2]([H:11])[H:12])([N:3]([N:4]([H:7])[H:8])[N:5]([H:9])[H:10])[H:6],63.30784749999694
MR_95391_0,[C:1]([N:6][N:5][O:4][C:3]([C:2]([H:11])([H:12])[H:13])=[O:7])([H:8])([H:9])[H:10]>>[C:1]([N:6]([C:3]([C:2]([H:11])([H:12])[H:13])=[O:7])[N:5][O:4])([H:8])([H:9])[H:10],24.579174999972366
MR_138518_0,[C:1]([C:4]([C:2]([H:14])([H:15])[H:17])=[N:7][N:3]([N:5]([H:8])[H:9])[N:6]([H:10])[H:11])([H:12])([H:13])[H:16]>>[C:1]([C:4]([C:2]([H:14])([H:15])[H:17])([N:6]([H:10])[H:11])/[N:7]=[N:3]/[N:5]([H:8])[H:9])([H:12])([H:13])[H:16],46.13380000001911
MR_53092_2,[C:1]([C:2]([N:4]([H:5])[H:6])([H:8])[H:9])(=[O:3])[H:7]>>[C:1](/[C:2](=[N:4]/[H:6])[H:9])([O:3][H:5])([H:7])[H:8],40.13113499999712
MR_141176_1,[C:1]1([H:10])([H:11])[C:3](=[C:5]([H:12])[H:13])[O:6][C:2]([N:4]([H:8])[H:9])=[N:7]1>>[C:1]1([H:10])([H:11])[C:3](=[C:5]([H:12])[H:13])[N:7]1[C:2]([N:4]([H:8])[H:9])=[O:6],61.93989749999077
MR_682599_1,[C:1](/[C:6](=[C:5](\[C:4]([N:3]([H:9])[H:10])(/[N:7]=[N:2]/[H:8])[H:11])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:6](=[C:5](\[N:2](/[N:7]=[C:4](/[N:3]([H:9])[H:10])[H:11])[H:8])[H:12])[H:13])([H:14])([H:15])[H:16],70.66403000000804
MR_361969_1,[C:1](/[C:5]([C:3]([H:16])([H:17])[H:18])=[C:4](/[C:2]([H:13])([H:14])[H:15])[O:8][H:11])([O:6][H:9])([O:7][H:10])[H:12]>>[C:1]1([O:6][H:9])([H:12])[C:4]([C:2]([H:13])([H:14])[H:15])([O:8][H:11])[C:5]1([C:3]([H:16])([H:17])[H:18])[O:7][H:10],68.00970500000375
MR_663421_0,[C:1]([C:4]([N:2]([C:7](=[O:8])[H:14])[H:9])=[C:3]([N:5]([H:10])[H:11])[N:6]([H:12])[H:13])([H:15])([H:16])[H:17]>>[C:1](/[C:4](=[N:2]/[H:9])[C:3]([N:5]([H:10])[H:11])([N:6]([H:12])[H:13])[C:7](=[O:8])[H:14])([H:15])([H:16])[H:17],59.77878750002532
MR_507627_0,[C:1]1([O:7][H:10])([H:12])[C:5]([C:4]([H:17])([H:18])[H:19])([O:9][H:13])[C:2]([C:3]([H:14])([H:15])[H:16])([O:8][H:11])[O:6]1>>[C:1]([C:5]([C:4]([H:17])([H:18])[H:19])=[O:9])([O:6][C:2]([C:3]([H:14])([H:15])[H:16])([O:8][H:11])[H:13])([O:7][H:10])[H:12],69.3964799999624
MR_500747_2,[C:1](=[N:7][C:5]([C:3]([H:16])([H:17])[H:18])([N:4]([C:2]([H:13])([H:14])[H:15])[H:9])[C:6](=[O:8])[H:12])([H:10])[H:11]>>[C:1]([C:6](=[O:8])[H:12])(/[N:7]=[C:5](\[C:3]([H:16])([H:17])[H:18])[N:4]([C:2]([H:13])([H:14])[H:15])[H:9])([H:10])[H:11],61.49562750000669
MR_149541_0,[N:1](/[C:3](=[C:4](/[N:2]([H:8])[H:9])[H:11])[H:10])([O:5][H:6])[H:7]>>[N:1](=[C:3](/[C:4]([N:2]([H:8])[H:9])([H:7])[H:11])[H:10])\[O:5][H:6],58.40832749998981
MR_215261_1,[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[H:7])(/[C:4]([N:5]([H:8])[H:9])=[N:6]/[H:10])([H:11])[H:12]>>[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[H:8])(/[C:4]([N:5]([H:7])[H:9])=[N:6]/[H:10])([H:11])[H:12],37.75416499998812
MR_620776_2,[C:1]1([N:4]([H:12])[H:13])([O:6][H:9])[C:2]([H:14])([H:15])[N:3]([H:11])[C:5]([O:8][H:10])([H:16])[O:7]1>>[C:1]([C:2]([N:3]([C:5](=[O:8])[H:16])[H:11])([H:14])[H:15])([N:4]([H:12])[H:13])([O:6][H:9])[O:7][H:10],22.29570249999483
MR_115171_0,[C:1](=[C:2](\[C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])(\[O:5][H:6])[H:7]>>[C@:1]1([O:5][H:6])([H:7])[C:2]([H:8])=[C:3]([H:9])[C:4]1([H:10])[H:11],55.49296250000253
MR_105592_0,[C:1]1(/[C:4]([N:5]([H:9])[H:10])=[N:7]/[C:3]([H:13])([H:14])[H:15])([H:8])[C:2]([H:11])([H:12])[O:6]1>>[C:1]1([H:8])=[C:4]([N:5]([H:9])[H:10])[N:7]([C:3]([H:13])([H:14])[H:15])[C:2]([H:11])([H:12])[O:6]1,57.16399499999255
MR_605810_1,[C:1](/[N:2]=[C:6](/[C:7]([C:3]([O:8][H:11])=[O:10])(/[C:4]([N:5]([H:12])[H:13])=[N:9]/[H:14])[H:16])[H:15])([H:17])([H:18])[H:19]>>[C:1]([N:2](/[C:4]([N:5]([H:12])[H:13])=[N:9]/[H:14])/[C:6](=[C:7](\[C:3]([O:8][H:11])=[O:10])[H:16])[H:15])([H:17])([H:18])[H:19],60.07496749999092
MR_512865_0,[C:1]([N:4]([C:2]([H:15])([H:16])[H:17])/[C:5]([N:6]([H:10])[H:11])=[C:7](/[C:3]([H:18])([H:19])[H:20])[H:14])([O:8][H:9])([H:12])[H:13]>>[C:1]([C:7]([C:3]([H:18])([H:19])[H:20])(/[C:5](=[N:4]/[C:2]([H:15])([H:16])[H:17])[N:6]([H:10])[H:11])[H:14])([O:8][H:9])([H:12])[H:13],72.48754500000544
MR_189636_1,[C:1]([N:2]([O:4][C:3](=[O:5])[H:7])[H:6])([H:8])([H:9])[H:10]>>[C:1]([N:2]1[C:3]([O:5][H:6])([H:7])[O:4]1)([H:8])([H:9])[H:10],66.6994849999945
MR_293838_1,[C:1]1([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:2]([H:11])([H:12])[C:7](/[N:8]=[N:5]/[H:10])([H:13])[C:6]1=[O:9]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:2]([H:11])([H:12])[C:7]([H:13])=[N:8][N:5]([H:10])[C:6]1=[O:9],35.09042749997192
